Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]([H:14])[H:15],1.85654265128
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:4],1.83998204476
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],1.97487991457
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[O:8][H:9]>>[H:1][C:2]#[C:3][C:5](=[C:6][H:7])[O:8][H:9].[H:4],1.99145453099
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],1.86589675834
[H:10].[H:1][C:2]([H:3])=[C:4]([O:5][C:6]=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.02074017272
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],1.2622669857100002
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:3]([H:4])#[C:5][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][C:2]#[C:6][H:7],-0.97125689624
[C:6]([H:7])(=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.00216298801
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2],2.85443653995
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7],9.02190237114
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12].[H:4],1.86501492975
[C:9][H:10].[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])=[C:7][H:8]>>[O:1]=[C:2]([H:3])/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9][H:10],-6.05441055668
[C:1]#[C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[C:1].[C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],5.87014033155
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],6.04940954492
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:5],1.49517121639
[C:4]#[C:11][H:12].[H:1][C:2](/[C:3]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])([H:13])[H:14]>>[H:1][C:2]#[C:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.10324566153
[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][H:8].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][H:8],-8.06579877
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:9][O:10][H:11].[H:8],2.37706635168
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[C:17]([H:18])[H:19].[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20],-4.55985390188
[H:1][C:2][O:3][C:4]#[C:5][H:6]>>[C:4]#[C:5][H:6].[H:1][C:2]=[O:3],1.63031912041
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1],2.6595349510900004
[H:1][C:2]1[O:3][O:4][C:5]1([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([O:3][O:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.7380275268500001
[H:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]1([H:7])[C:8][O:9][C:10]1([H:11])[H:12],-0.88895162313
[O:1]=[C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[H:4].[O:1]=[C:2]=[C:3][C:5]([O:6][H:7])=[C:8]([H:9])[H:10],4.29303242281
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],1.91314511181
[H:1][C:2]#[C:3][O:5][C:6]=[C:7]([H:8])[H:9].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],-2.33024243869
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6].[O:7][H:8]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],-5.8799244213
[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.3675765546500001
